US08383629B2
To a solution of (E)-1-methyl-2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxylic acid (20 mg, 0.04 mmol) in anhydrous CH2Cl2 (5 mL) at 0° C. was added 1-methyl-piperazine (6.0 mg, 0.06 mmol), HOBt (12 mg, 0.09 mmol), EDCI (18 mg, 0.09 mmol) and DIEA (28 mg, 0.22 mol) and the mixture was stirred overnight at rt under N2. The reaction mixture was washed with 1 N aq HCl and water. The organic phase was dried over Na2SO4, filtered and concentrated to afford a residue, which was purified by prep TLC to give (E)-1-methyl-5-(4-methylpiperazine-1-carbonyl)-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidin]-2-one (12 mg, 57%). 1H NMR (CD3OD): 1.90 (m, 4H), 2.95 (s, 3H), 3.30 (m, 11H), 3.95 (m, 1H), 4.20 (m, 2H), 4.30 (m, 1H), 7.10 (m, 1H), 7.26 (m, 1H), 7.50 (m, 3H), 7.66 (m, 1H), 7.77 (m, 1H), 8.00 (m, 2H).

reactant | (E)-1-methyl-2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxylic acid | 0.04 mmol, 20 mg | CN1C(C2(CCN(CC2)C(\C=C\C2=C(C=CC=C2)C(F)(F)F)=O)C2=CC(=CC=C12)C(=O)O)=O | C24H21F3N2O4
reactant | 1-methyl-piperazine | 0.06 mmol, 6.0 mg | CN1CCNCC1 | C5H12N2
reactant | HOBt | 0.09 mmol, 12 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.09 mmol, 18 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIEA | 0.22 mol, 28 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-1-methyl-5-(4-methylpiperazine-1-carbonyl)-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidin]-2-one | 12 mg, 57% | CN1C(C2(CCN(CC2)C(\C=C\C2=C(C=CC=C2)C(F)(F)F)=O)C2=CC(=CC=C12)C(=O)N1CCN(CC1)C)=O | C29H31F3N4O3
